US07648984B2
(a) 1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinol
1,1,1-Trifluoro-methanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester (20 g, 65 mmol) was dissolved in DMF and treated with triethylamine (12 mL, 84 mmol) and DL-3-pyrrolidinol (7.4 g , 84 mmol.) The reaction mixture was stirred overnight at room temperature. The resulting reaction mixture was diluted with water (200 mL) and stirred for 1 h. The resulting precipitate was filtered off, washed with diethyl ether, and air dried to afford the title compound: LC-MS m/z 246 (M+H)+

reactant | 1,1,1-Trifluoro-methanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester | 65 mmol, 20 g | COC=1N=C2C(=CC=NC2=CC1)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
reactant | triethylamine | 84 mmol, 12 mL | C(C)N(CC)CC | C6H15N
reactant | DL-3-pyrrolidinol | 84 mmol, 7.4 g | C1CNCC1O | C4H9NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinol | COC=1N=C2C(=CC=NC2=CC1)N1CC(CC1)O | C13H15N3O2
